US04246263
By the same method, 4-pyrimidylmethyl bromide is reacted with 3-mercapto-2-butanol to yield 4-(3-hydroxy-2-butylthiomethyl)pyrimidine, with 3-mercapto-1,2-propanediol to yield 4-(2,3-dihydroxy-1-propylthiomethyl)pyrimidine, with 2-mercaptophenol to yield 4-(2-hydroxyphenylthiomethyl)pyrimidine, with ethyl 2-mercaptoacetate to yield ethyl 2-(4-pyrimidylmethylthio)acetate, with ethyl 2-mercaptopropionate to yield ethyl 2-(4-pyrimidylmethylthio)propionate, with ethyl 2-phenyl-2-mercaptoacetate to yield ethyl 2-phenyl-2-(4-pyrimidylmethylthio)acetate (when ethyl esters are prepared, it is preferable to substitute an equivalent of sodium ethoxide for sodium methoxide), with mercaptoacetone to yield 4-pyrimidylmethylthioacetone, with 1-phenyl-1-mercaptoacetone to yield 1-(4-pyrimidylmethylthio)-1-phenylacetone, and with methyl 3-mercaptopropionate to yield methyl 3-(4-pyrimidylmethylthio)propionate (when methyl esters are prepared it is preferable to substitute methanol for ethanol).

reactant | 4-pyrimidylmethyl bromide | N1=CN=C(C=C1)CBr | C5H5BrN2
reactant | 3-mercapto-2-butanol | SC(C(C)O)C | C4H10OS
product | 4-(3-hydroxy-2-butylthiomethyl)pyrimidine | OC(C(C)SCC1=NC=NC=C1)C | C9H14N2OS
